US04427589
1,9-Dichloro-3-methyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepine
A solution of 3.5 g (10.4 mmol) of 9-chloro-3-methyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepin-1(2H)-one and 22 mL of phosphorous oxychloride in 100 mL of methylene chloride was stirred at room temperature for 18 hr. The reaction mixture was concentrated at reduced pressure to a solid residue. The residue was partitioned between ice cold saturated aqueous sodium bicarbonate and methylene chloride. The methylene chloride solution was dried over anhydrous sodium sulfate and concentrated at reduced pressure to a yellow residue. Purification by column chromatography (silica gel, 40.0 g; eluent:methylene chloride ether, 10:1) gave a pale yellow solid, mp 190°-192°. A portion was recrystallized from a mixture of ether and petroleum ether to yield colorless prisms, mp 191°-193°.

reactant | 9-chloro-3-methyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepin-1(2H)-one | 10.4 mmol, 3.5 g | ClC1=CC2=C(C3=C(CN=C2C2=CC=CC=C2)N=C(NC3=O)C)C=C1 | C19H14ClN3O
reactant | phosphorous oxychloride | 22 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 1,9-Dichloro-3-methyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepine | ClC1=NC(=NC=2CN=C(C3=C(C21)C=CC(=C3)Cl)C3=CC=CC=C3)C | C19H13Cl2N3
